US08012980B2
N-Cyclopropyl-3-fluoro-5-[2-(3-hydroxy-2,2-dimethylpropyl)-4-{[(3S)-3-methylpiperazin-1-yl]methyl}-1-oxo-1,2-dihydroisoquinolin-6-yl]-4-methylbenzamide hydrochloride
The subtitle product was made from 3-[2-(3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropyl)-4-(hydroxymethyl)-1-oxo-1,2-dihydroisoquinolin-6-yl]-N-cyclopropyl-5-fluoro-4-methylbenzamide (Example 26 g, 190 mg) by sequential reaction with methanesulfonyl chloride (57 μL) and tert-butyl (2S)-2-methylpiperazine-1-carboxylate (240 mg) using a similar method to Example 26 h, to afford the title compound (58 mg) as a white solid.

reactant | 3-[2-(3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropyl)-4-(hydroxymethyl)-1-oxo-1,2-dihydroisoquinolin-6-yl]-N-cyclopropyl-5-fluoro-4-methylbenzamide | 26 g | [Si](C)(C)(C(C)(C)C)OCC(CN1C(C2=CC=C(C=C2C(=C1)CO)C=1C=C(C(=O)NC2CC2)C=C(C1C)F)=O)(C)C | C32H43FN2O4Si
reactant | methanesulfonyl chloride | 57 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl (2S)-2-methylpiperazine-1-carboxylate | 240 mg | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
product | N-Cyclopropyl-3-fluoro-5-[2-(3-hydroxy-2,2-dimethylpropyl)-4-{[(3S)-3-methylpiperazin-1-yl]methyl}-1-oxo-1,2-dihydroisoquinolin-6-yl]-4-methylbenzamide hydrochloride | 58 mg | Cl.C1(CC1)NC(C1=CC(=C(C(=C1)C=1C=C2C(=CN(C(C2=CC1)=O)CC(CO)(C)C)CN1C[C@@H](NCC1)C)C)F)=O | InChI=1S/C31H39FN4O3.ClH/c1-19-14-35(10-9-33-19)15-23-16-36(17-31(3,4)18-37)30(39)25-8-5-21(11-27(23)25)26-12-22(13-28(32)20(26)2)29(38)34-24-6-7-24;/h5,8,11-13,16,19,24,33,37H,6-7,9-10,14-15,17-18H2,1-4H3,(H,34,38);1H/t19-;/m0./s1
